US06582351B1
To a solution of 2-(2-acetoxy-1,1-dimethylethylamino)-3-amino-5-(trifluoromethyl)pyridine (1.5 g) in acetonitrile (15 mL) was added 1,1′-carbonyldiimidazole (1.25 g), and the mixture was stirred at 50° C. under nitrogen atmosphere for 2 hours. After cooling to room temperature, the mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The separated organic layer was washed successively with 1 N-hydrochloric acid, water, an aqueous saturated sodium hydrogencarbonate solution and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to a silica gel column chromatography eluting with a mixture of chloroform and methanol (20:1). The obtained substance was triturated with diethyl ether to give 3-(2-acetoxy-1,1-dimethylethyl)-6-trifluoromethyl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one (736.5 mg) as a pale brown solid.

reactant | 2-(2-acetoxy-1,1-dimethylethylamino)-3-amino-5-(trifluoromethyl)pyridine | 1.5 g | C(C)(=O)OCC(C)(C)NC1=NC=C(C=C1N)C(F)(F)F | C12H16F3N3O2
reactant | 1,1′-carbonyldiimidazole | 1.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-(2-acetoxy-1,1-dimethylethyl)-6-trifluoromethyl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one | 736.5 mg | C(C)(=O)OCC(C)(C)N1C(NC=2C1=NC=C(C2)C(F)(F)F)=O | C13H14F3N3O3
